US08604061B2
a) (RS)-2-Amino-2-(4-chloro-phenyl)-butyronitrile
A solution of 4′-chloropropiophenone (5 g) in MeOH (20 ml) was treated under an argon atmosphere and at r.t. with 7M NH3 in MeOH (33.9 ml). Then, tetraisopropyl orthotitanate (10.54 ml) was added dropwise. The reaction mixture was stirred for 1 hr at r.t. Then, trimethylsilyl cyanide (3.72 ml) was added and stirring was continued at r.t. overnight. The reaction mixture was poured in ice and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated. The crude (RS)-2-amino-2-(4-chloro-phenyl)-butyronitrile (4.95 g) was used in the next reaction step without further purification.

reactant | 4′-chloropropiophenone | 5 g | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | NH3 | 7M | N | H3N
reactant | trimethylsilyl cyanide | 3.72 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | MeOH | 20 ml | CO | CH4O
solvent | MeOH | 33.9 ml | CO | CH4O
catalyst | tetraisopropyl orthotitanate | 10.54 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (RS)-2-Amino-2-(4-chloro-phenyl)-butyronitrile | NC(C#N)(CC)C1=CC=C(C=C1)Cl | C10H11ClN2
